US06008243
To a solution of N4 -t-butyldiphenylsiloxy-N1 -[2,2-Dimethyl-1(S)-(hydroxymethyl)propyl]-2(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamide (112 mg, 0.160 mmol) in THF (5 mL) was added a solution of tetra-n-butylammonium fluoride (0.20 mL of 1M in THF). After 1.25 hours at ambient temperature, the mixture was added dropwise to 1M pH7 phosphate buffer (40 mL). The resultant precipitate was collected by filtration and washed with H2O. A solution in CH2Cl2 /MeOH was passed through a 0.45μ syringe filter, and the filtrate was concentrated to give a solid which was triturated with EtOH to yield 30 mg (42%) of N1 -[2,2-Dimethyl-1(S)-(hydroxymethyl)propyl]-N4 -hydroxy-2(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamide as an amorphous solid, which decomposed >200° C. 1H NMR (CD3COOD): δ 8.91 (d, 2H, J=6.6 Hz), 8.23 (d, 2H, J=7.0 Hz), 7.93 (d, 2H, J=8.8 Hz), 7.76 (d, 2H, J=8.5 Hz), 7.42 (s, 1H), 6.95 (s, 1h), 6.60 (s, 1H), 5.44 (t, 1H, J=7.4 Hz), 3.92-3.88 (m, 2H), 3.63-3.55 (m, 1H), 3.21 (dd, 1H, J=6.4, 14.5 Hz), 3.03 (dd, 1H, J=8.1, 15.1 Hz), 0.93 (s, 9H). Anal: Calculated for C25H30N4O4.0.4 H2O: C, 66.08; H, 6.96; N, 11.95. Found: C, 65.92; H, 6.79; N, 11.86.

reactant | N4 -t-butyldiphenylsiloxy-N1 -[2,2-Dimethyl-1(S)-(hydroxymethyl)propyl]-2(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamide | 0.160 mmol, 112 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(C[C@H](C(=O)N[C@@H](C(C)(C)C)CO)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | C41H48N4O4Si
reactant | tetra-n-butylammonium fluoride | 1M, 0.20 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | phosphate | 1M, 40 mL, pH7 | P(=O)([O-])([O-])[O-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N1 -[2,2-Dimethyl-1(S)-(hydroxymethyl)propyl]-N4 -hydroxy-2(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamide | 30 mg, 42% | CC([C@@H](CO)NC([C@@H](CC(=O)NO)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O)(C)C | C25H30N4O4
